
* 3-Resonator Bandpass Filter.
* Passband 24.5 - 25.1 MHz   1dB ripple   50 ohm

Vin in 0 AC 1
Rin in filtIn  50
Rload filtOut 0 50

CC1 filtIn tank1 38.26p
CT1 tank1 0 826.19p
LT1 tank1 0 47.00n
* Behavioral source acting as a parallel resistor with value RP = Q*2*pi*f*L
* The current is I = V/RP = V(tank1,0) / (50 * 6.28318 * freq * 300e-9)
* This is for API Delevan 0301KS Series 160 Iron Core inductor Q=50@25MHz.
* (this doesn't work because "freq" is not defined in DC setup analysis).	    
* B_QLT1 tank1 0 I = if(freq > 0, v(tank1,0)/(5.6548e-4 * freq), 0)
* This resistor simulates a Q=150@14.5MHz.
RqLT1 tank1 0 4.1k

CC2 tank1 tank2 14.94p
CT2 tank2 0 846.39p
LT2 tank2 0 47.00n
* Behavioral source acting as a parallel resistor with value RP = Q*2*pi*f*L
* The current is I = V/RP = V(tank1,0) / (50 * 6.28318 * freq * 300e-9)
* This is for API Delevan 0301KS Series 160 Iron Core inductor Q=50@25MHz.
* (this doesn't work because "freq" is not defined in DC setup analysis).	    
* B_QLT2 tank2 0 I = if(freq > 0, v(tank2,0)/(5.6548e-4 * freq), 0)
* This resistor simulates a Q=150@14.5MHz.
RqLT2 tank2 0 4.1k

CC3 tank2 tank3 14.94p
CT3 tank3 0 826.19p
LT3 tank3 0 47.00n
* Behavioral source acting as a parallel resistor with value RP = Q*2*pi*f*L
* The current is I = V/RP = V(tank1,0) / (50 * 6.28318 * freq * 300e-9)
* This is for API Delevan 0301KS Series 160 Iron Core inductor Q=50@25MHz.
* (this doesn't work because "freq" is not defined in DC setup analysis).	    
* B_QLT3 tank3 0 I = if(freq > 0, v(tank3,0)/(5.6548e-4 * freq), 0)
* This resistor simulates a Q=150@14.5MHz.
RqLT3 tank3 0 4.1k

CC4 tank3 filtOut 38.26p


* --- Control and Plotting ---
.control
  run
  set color0 = white
  set color1 = black
  set xgridwidth = 2
  
  ac lin 2001 1e6 33e6

  * Plot with a narrower view to inspect the skirts
  plot db(v(filtOut) / v(filtIn)) xlimit 19.6e6 30.1e6 ylimit -80 6
.endc

.end

